US20010047031A1
nBuLi (13.8 ml, 22 mmol, 1.6 M in hexane) was added dropwise into a 0° C. solution of diisopropylamine (3.39 ml, 24 mmol) in THF (34 ml). The reaction mixture was stirred at 0° C. for 15 minutes then cooled to −75° C. and treated slowly with a solution of methyl 4-phenylbutyrate (3.56 g, 20 mmol) in THF (10 ml). After 30 minutes stirring at −75° C., trimethylchlorosilane (5.06 ml, 40 mmol) was added dropwise and the reaction mixture was allowed to warm up to room temperature. After 30 minutes, reaction mixture was concentrated, the residue was taken up in CH2Cl2 (100 ml), the resulting precipitate was filtered, filtrate was cooled to 13° C. and subsequently treated slowly with a solution of N-fluorodibenzenesulfonimide (6.3 g, 20 mmol) in CH2Cl2 (50 ml). After 3 hours stirring at room temperature, the reaction mixture was washed with H2O (2 times). The aqueous phase was extracted with CH2Cl2, the combined organic phases were dried over Na2SO4 and concentrated. The residue was chromatographed over silica gel (hexane-ethylacetate 99:1 then 98:2) to provide (RS)-2-fluoro-4-phenyl-butyric acid methyl ester (2.47 g, 63%) as a colorless oil, MS: m/e=196.1 (M+).

reactant | nBuLi | 22 mmol, 1.6 M, 13.8 ml | [Li]CCCC
reactant | diisopropylamine | 24 mmol, 3.39 ml | C(C)(C)NC(C)C | C6H15N
reactant | methyl 4-phenylbutyrate | 20 mmol, 3.56 g | C1(=CC=CC=C1)CCCC(=O)OC | C11H14O2
reactant | trimethylchlorosilane | 40 mmol, 5.06 ml | C[Si](Cl)(C)C | C3H9ClSi
reactant | N-fluorodibenzenesulfonimide | 20 mmol, 6.3 g | C1=CC=C(C=C1)S(=O)(=O)N(F)S(=O)(=O)C2=CC=CC=C2 | C12H10FNO4S2
solvent | THF | 34 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | (RS)-2-fluoro-4-phenyl-butyric acid methyl ester | 2.47 g, 63% | COC(C(CCC1=CC=CC=C1)F)=O | C11H13FO2
